US04294960
2-(2-Aminothiazol-4-yl)-2-cyclohexyloxyiminoacetic acid (syn isomer, 1.5 g.), acetic anhydride (2.27 g.) and formic acid (1.03 g.) were treated in a similar manner to that of Example F-(5), and the oil obtained was suspended in an aqueous solution of sodium bicarbonate. The suspension was adjusted to pH 3.5 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and dried to give 2-(2-formamidothiazol-4-yl)-2-cyclohexyloxyiminoacetic acid (syn isomer, 1.0 g.), mp. above 230° C.

reactant | 2-(2-Aminothiazol-4-yl)-2-cyclohexyloxyiminoacetic acid | 1.5 g | NC=1SC=C(N1)C(C(=O)O)=NOC1CCCCC1 | C11H15N3O3S
reactant | acetic anhydride | 2.27 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | formic acid | 1.03 g | C(=O)O | CH2O2
product | 2-(2-formamidothiazol-4-yl)-2-cyclohexyloxyiminoacetic acid | 1.0 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC1CCCCC1 | C12H15N3O4S
